US06072021
To 0.4948 g (0.56 mmole) of sodium tetrakis(3,5-bis-trifluoromethylphenyl)borate, prepared according to the method described in Brookhart et al., Organometallics 11, pp. 3920-3922,1992, dissolved in 4.057 ml of methylene chloride was added 0.154 g (0.553 mmole) of chlorotriphenylmethane (Reagent grade, Aldrich) at room temperature, to form a 0.14 M solution of triphenylmethylcarbenium tetrakis(3,5-bis-trifluoromethyl phenyl) borate in methylene chloride. The resulting mixture was transferred in a dry box through a 0.5 mm syringe filter into a dry vial with rubber septum cap.

reactant | sodium tetrakis(3,5-bis-trifluoromethylphenyl)borate | 0.56 mmole, 0.4948 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[B-](C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F.[Na+]
reactant | chlorotriphenylmethane | 0.553 mmole, 0.154 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | methylene chloride | 4.057 ml | C(Cl)Cl | CH2Cl2
product | triphenylmethylcarbenium tetrakis(3,5-bis-trifluoromethyl phenyl) borate | FC(C=1C=C(C=C(C1)C(F)(F)F)[B-](C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F.C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[CH2+] | InChI=1S/C32H12BF24.C20H17/c34-25(35,36)13-1-14(26(37,38)39)6-21(5-13)33(22-7-15(27(40,41)42)2-16(8-22)28(43,44)45,23-9-17(29(46,47)48)3-18(10-23)30(49,50)51)24-11-19(31(52,53)54)4-20(12-24)32(55,56)57;1-20(17-11-5-2-6-12-17,18-13-7-3-8-14-18)19-15-9-4-10-16-19/h1-12H;2-16H,1H2/q-1;+1
